US03957775
trisodium α-mercapto-β-sulfosuccinate
trisodium ⊕-methylthio-β-sulfosuccinate

reactant | trisodium | [Na+].[Na+].[Na+]
reactant | methylthio-β-sulfosuccinate | CSC(C(=O)[O-])C(C(=O)[O-])S(=O)(=O)O
product | trisodium α-mercapto-β-sulfosuccinate | SC(C(=O)[O-])C(C(=O)[O-])S(=O)(=O)O.[Na+].[Na+].[Na+] | InChI=1S/C4H6O7S2.3Na/c5-3(6)1(12)2(4(7)8)13(9,10)11;;;/h1-2,12H,(H,5,6)(H,7,8)(H,9,10,11);;;/q;3*+1/p-2
